US04214004
A mixture of 2'-fluoro-3-methyl[1,1'-biphenyl] (1.1 g, 0.006 mole) and N-bromosuccinimide (1.1 g, 0.006 mole) in 11 ml of carbon tetrachloride was irradiated with white light to afford 3-bromomethyl-2'-fluoro[1,1'-biphenyl] (1.3 g). The nmr spectrum was consistent with that expected for the named compound.

reactant | 2'-fluoro-3-methyl[1,1'-biphenyl] | 0.006 mole, 1.1 g | FC1=C(C=CC=C1)C1=CC(=CC=C1)C | C13H11F
reactant | N-bromosuccinimide | 0.006 mole, 1.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 11 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-2'-fluoro[1,1'-biphenyl] | 1.3 g | BrCC=1C=C(C=CC1)C1=C(C=CC=C1)F | C13H10BrF
